US04328223
62 g (0.3 mol) of 2-chloro-3a,4,5,6-tetrahydroperimidine in 400 ml of ethanol and 150 ml of liquid ammonia are heated to 150° in an autoclave for 6 hours. The pressure thereby increases to a maximum of 30 bars. After cooling, the reaction mixture is evaporated to dryness. The residue is dissolved in water, the solution is filtered through active charcoal and the 2-amino-3a,4,5,6-tetrahydroperimidine formed is precipitated by adding aqueous ammonia. After filtering off and drying the product, 40 g (71% of theory) of melting point 230°-232° are obtained. Preparation of 2-chloro-3a,4,5,6-tetrahydro-perimidine:

reactant | 2-chloro-3a,4,5,6-tetrahydroperimidine | 0.3 mol, 62 g | ClC=1NC=2C=CC=C3CCCC(N1)C23 | C11H11ClN2
reactant | ammonia | N | H3N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-amino-3a,4,5,6-tetrahydroperimidine | NC=1NC=2C=CC=C3CCCC(N1)C23 | C11H13N3
